US05665754
A solution of trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine (620 mg, 1.94 mmol) in 5 mL of ethyl formate was heated at reflux for 3 hr. The reaction was diluted with ether and concentrated. The residue was dissolved in ether and washed with 1M H3PO4. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (2:1, ethyl acetate:hexanes) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-1-formyl-4-(methoxycarbonyl)pyrrolidine as a colorless oil (567 mg, 84%). 1H-NMR (300 MHz): δ 3.11-3.21 (1, m), 3.65 (s, 3), 3.82 (s, 3), 6.73-6.82 (m, 3), 8.26 (s, 1).

reactant | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-(methoxycarbonyl)pyrrolidine | 1.94 mmol, 620 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CNC[C@H]1C(=O)OC | C18H25NO4
reactant | ethyl formate | 5 mL | C(=O)OCC | C3H6O2
solvent | ether | CCOCC | C4H10O
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-1-formyl-4-(methoxycarbonyl)pyrrolidine | 567 mg, 84% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)C=O | C19H25NO5
